US03998879
Reaction of equimolar amounts of 5-(1-ethylpropyl)-1,3-cyclohexanedione with p-toluenesulfonylisocyanate in benzene according to the procedure of Example 1 affords 5-(1-ETHYLPROPYL)-2-(N-p-TOLUENESULFONYLCARBAMOYL)-1,3-CYCLOHEXANEDIONE, m.p. 111.5°-112.5° C. (corr.).

reactant | 5-(1-ethylpropyl)-1,3-cyclohexanedione | C(C)C(CC)C1CC(CC(C1)=O)=O | C11H18O2
reactant | p-toluenesulfonylisocyanate | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-(1-ETHYLPROPYL)-2-(N-p-TOLUENESULFONYLCARBAMOYL)-1,3-CYCLOHEXANEDIONE | C(C)C(CC)C1CC(C(C(C1)=O)C(NS(=O)(=O)C1=CC=C(C=C1)C)=O)=O | C19H25NO5S
